US07674789B2
N-(8-(2,6-difluorophenyl)-4-{2-methyl-5-[(propylamino)carbonyl]phenyl}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl)-β-alanine
To 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (100 mg, 0.2 mmol) in DMF (1 mL) was added β-alanine (35.6 mg, 0.4 mmol) and triethylamine (56.2 uL, 0.4 mmol). The mixture was heated with microwave at 100° C. for 2 hrs. The mixture was separated by HPLC to afford the title compound (45 mg, 43%). LC-MS m/z 525 (M+H)+.

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 0.2 mmol, 100 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)(=O)C)=O | C24H23F2N5O4S
reactant | β-alanine | 0.4 mmol, 35.6 mg | NCCC(=O)O | C3H7NO2
reactant | triethylamine | 0.4 mmol, 56.2 uL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(8-(2,6-difluorophenyl)-4-{2-methyl-5-[(propylamino)carbonyl]phenyl}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl)-β-alanine | 45 mg, 43% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C2=C(C=CC(=C2)C(=O)NCCC)C)NCCC(=O)O)=O | C26H26F2N6O4
